US04313949
2-Amino-3-benzoyl-5-chloro-α-(methylthio)-N-methylphenylacetamide.
To a solution of 38.3 g (0.166 mole) of 2-amino-5-chlorobenzophenone in 1 liter of methylene chloride cooled to -70° C. under an atmosphere of nitrogen was added 18.05 g (0.167 mole) of t-butylhypochlorite. The solution was stirred for 15 min and then a solution of 20.3 g (0.171 mole) of 2-methylthio-N-methylacetamide in 100 ml of methylene chloride was added. The solution was stirred at -70° C. for 2 hrs and 25 ml of triethylamine was added. While stirring, the solution was allowed to warm to room temperature followed by extraction with water and drying of the organic layer with magnesium sulfate. The volume of the solution was reduced to about 400 ml, ether was added and the solution placed in a refrigerator at about 0° C. overnight. The solid which crystallized was dried under high vacuum for about 4 hr at 50° C. Weight of the product was 31.56 g (54.6%) which melted at 170°-171° C.

reactant | 2-amino-5-chlorobenzophenone | 0.166 mole, 38.3 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | t-butylhypochlorite | 0.167 mole, 18.05 g | C(C)(C)(C)OCl | C4H9ClO
reactant | 2-methylthio-N-methylacetamide | 0.171 mole, 20.3 g | CSCC(=O)NC | C4H9NOS
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-benzoyl-5-chloro-α-(methylthio)-N-methylphenylacetamide | NC1=C(C=C(C=C1C(C1=CC=CC=C1)=O)Cl)C(C(=O)NC)SC | C17H17ClN2O2S
